US04269780
A process according to claim 17 wherein cyclopentene is reacted with 4-penten-1-yl acetate to produce 4,9-decadien-1-yl acetate.

reactant | cyclopentene | C1=CCCC1 | C5H8
reactant | 4-penten-1-yl acetate | C(C)(=O)OCCCC=C | C7H12O2
product | 4,9-decadien-1-yl acetate | C(C)(=O)OCCCC=CCCCC=C | C12H20O2
